US06197975B1
Step 2.2H 1-[3-(2-{benzyl-[4-(4-nitrophenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-3-ethylimidazolidin-2-one
To a solution of N-[3-(2-{benzyl-[4-(4-nitrophenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-N′-ethyl-ethane-1,2-diamine (20 mg in 3 mL dry methylene chloride) at 0° C. was added 9.6 mg N,N′-disuccinimidyl carbonate followed by triethylamine (0.110 mL of a 10% solution in methylene chloride) and the mixture stirred at low temperature. After 30 minutes, the reaction was quenched by the addition of saturated aqueous ammonium chloride and extracted with ethyl acetate. The organic portion was washed with saturated sodium bicarbonate, dried over sodium sulfate and concentrated in vacuo to provide the crude title compound (21 mg).

reactant | N-[3-(2-{benzyl-[4-(4-nitrophenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-N′-ethyl-ethane-1,2-diamine | 3 mL, 20 mg | C(C1=CC=CC=C1)N(CCC1=C(NC2=CC=C(C=C12)NCCNCC)C1=CC(=CC(=C1)C)C)CCCCC1=CC=C(C=C1)[N+](=O)[O-] | C39H47N5O2
reactant | N,N′-disuccinimidyl carbonate | 9.6 mg | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[3-(2-{benzyl-[4-(4-nitrophenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-3-ethylimidazolidin-2-one | 21 mg | C(C1=CC=CC=C1)N(CCC1=C(NC2=CC=C(C=C12)N1C(N(CC1)CC)=O)C1=CC(=CC(=C1)C)C)CCCCC1=CC=C(C=C1)[N+](=O)[O-] | C40H45N5O3
